.global 0
.global 0
.subckt telescopic_ota vbiasn vbiasp1 vbiasp2 vinn vinp voutn voutp id vdd 0
.param no_of_fin = 10
m1 id id 0 0 sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=8 nf=4
m2 net10 id 0 0 sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=8 nf=4
m5 voutn vbiasn net8 0 sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=5 nf=2
m6 voutp vbiasn net014 0 sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=5 nf=2
m8 voutp vbiasp1 net012 vdd sky130_fd_pr__pfet_01v8 w=270e-9 l=20e-9 nfin=8 nf=2
m7 voutn vbiasp1 net06 vdd sky130_fd_pr__pfet_01v8 w=270e-9 l=20e-9 nfin=8 nf=2
m10 net012 vbiasp2 vdd vdd sky130_fd_pr__pfet_01v8 w=270e-9 l=20e-9 nfin=8 nf=4
m9 net06 vbiasp2 vdd vdd sky130_fd_pr__pfet_01v8 w=270e-9 l=20e-9 nfin=8 nf=4
m4 net014 vinn net10 0 sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=12 nf=6
m3 net8 vinp net10 0 sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=12 nf=6
.ends ota
** End of subcircuit definition.
